US07897624B2
Step a: 4-(2-Chloro-4-iodophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid
The title compound is prepared from 4-chloro-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid by the procedure described in step e for Example 5, using 2-chloro-4-iodoaniline instead of 2-fluoro-4-iodoaniline. The title compound is used for the next reaction without further purification.

reactant | 4-chloro-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid | ClC=1C(=CN(C(C1C)=O)C)C(=O)O | C8H8ClNO3
reactant | 2-chloro-4-iodoaniline | ClC1=C(N)C=CC(=C1)I | C6H5ClIN
product | 4-(2-Chloro-4-iodophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid | ClC1=C(C=CC(=C1)I)NC=1C(=CN(C(C1C)=O)C)C(=O)O | C14H12ClIN2O3
